US05843939
3,3-dibromo-alpha-(1-methylethylidene)-2-[benzylaminosulfinyl]-4-oxo-1-azetidine acetic acid benzyl ester (5.7 g; 0.01 mole) was dissolved in chloroform (120 mL), bromine on a polymer carrier (18.75 g; the content of bromine bound to the polymer matrix with polyvinylpyrrolidone was 26%, 0.03 mole) was added and it was stirred at room temperature for 48 hours. Then the polymer was sucked off and the filtrate was evaporated to dryness. The evaporated residue was passed through a silica gel column with methylene chloride to isolate 2,3,3-tribromo-alpha-(1-methylethylidene)-4-oxo-1-azetidine acetic acid benzyl ester (2.73 g; 55.0%), which was subjected to a reaction with silver tetrafluoroborate in methanol analogously to the reaction described under 1a. After isolation 3,3-dibromo-2-methoxy-alpha-(1-methylethylidene)-4-oxo-1-azetidine acetic acid benzyl ester with spectroscopic data identical to those disclosed under 1a was obtained.

reactant | 3,3-dibromo-alpha-(1-methylethylidene)-2-[benzylaminosulfinyl]-4-oxo-1-azetidine acetic acid benzyl ester | 0.01 mole, 5.7 g | C(C1=CC=CC=C1)OC(C(N1C(C(C1=O)(Br)Br)S(=O)NCC1=CC=CC=C1)=C(C)C)=O | C22H22Br2N2O4S
reactant | bromine | BrBr | Br2
solvent | chloroform | 120 mL | C(Cl)(Cl)Cl | CHCl3
product | 2,3,3-tribromo-alpha-(1-methylethylidene)-4-oxo-1-azetidine acetic acid benzyl ester | 2.73 g, 55.0% | C(C1=CC=CC=C1)OC(C(N1C(C(C1=O)(Br)Br)Br)=C(C)C)=O | C15H14Br3NO3
